US05041679
7.54 Grams of methyl acetoacetate were dissolved in 10 ml of water, and 9.07 g of a 30% aqueous sodium hydroxide solution were added thereto by drops while cooling the mixture to 35° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.5 with a concentrated aqueous hydrochloric acid solution. Thereafter, 0.41 g of sodium acetate and 1.61 g of tetrabutylammonium bromide were added thereto and then 29.4 g of a toluene solution containing 33.8% of 3-(3-trifluoromethylphenylthio)propanal were added thereto. The mixture was stirred at 45°-50° C. for 6 hours. After the mixture had been neutralized with a concentrated aqueous hydrochloric acid solution, the organic layer was separated, washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 14.92 g of crude 4-hydroxy-6-(3-trifluoromethylphenylthio)-2-hexanone (purity: 80.2%, yield: 96.7%).

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | 0.41 g | C(C)(=O)[O-].[Na+]
reactant | 3-(3-trifluoromethylphenylthio)propanal | FC(C=1C=C(C=CC1)SCCC=O)(F)F | C10H9F3OS
solvent | water | 10 ml | O | H2O
catalyst | tetrabutylammonium bromide | 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 29.4 g | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-6-(3-trifluoromethylphenylthio)-2-hexanone | 14.92 g, yield: 96.7% | OC(CC(C)=O)CCSC1=CC(=CC=C1)C(F)(F)F | C13H15F3O2S
